US08242116B2
5a-Methyl-2-(morpholin-4-yl)-5a,6,7,8-tetrahydropyrrolo[1,2-a][1,3]thiazolo[5,4-e]pyrimidin-4(5H)-one
A stirred solution of 4-amino-2-(morpholin-4-yl)-1,3-thiazole-5-carboxamide (0.22 g, 0.99 mmol), 5-chloro-2-pentanone (0.5 mL, excess) and p-toluenesulfonic acid monohydrate (cat. amount) in DCE (4 mL) was heated to 100° C. in a sealed tube, under microwave irradiation, for 1 h. The reaction mixture was then concentrated in vacuo and purification by preparative HPLC gave the title compound (0.03 g, 10%) as an off-white solid. δH (DMSO-d6) 7.29 (1H, s), 3.73-3.64 (4H, m), 3.57-3.39 (6H, m), 2.08-1.96 (2H, m), 1.93-1.83 (2H, m), 1.36 (3H, s). LCMS (ES+) 295.2 (M+H)+.

reactant | 4-amino-2-(morpholin-4-yl)-1,3-thiazole-5-carboxamide | 0.99 mmol, 0.22 g | NC=1N=C(SC1C(=O)N)N1CCOCC1 | C8H12N4O2S
reactant | 5-chloro-2-pentanone | 0.5 mL | ClCCCC(C)=O | C5H9ClO
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | DCE | 4 mL | ClCCCl | C2H4Cl2
product | 5a-Methyl-2-(morpholin-4-yl)-5a,6,7,8-tetrahydropyrrolo[1,2-a][1,3]thiazolo[5,4-e]pyrimidin-4(5H)-one | 0.03 g, 10% | CC12N(C3=C(C(N1)=O)SC(=N3)N3CCOCC3)CCC2 | C13H18N4O2S
